2186-05-17 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Bolused 2gm Mag IV for frequent PACs/PVCs
   - Pt receiving heparin per Cath lab orders, PTT 136.9 today
   - Received percocet for pain in upper leg ecchymosis
   - Hct dropped 32.9 -> 26.8
   - Cre improved 1.7 -> 1.5
   - This AM, pt complains of lower abd cramps, improved w/ passing gas
   while being examined
 IABP LINE - START [**2186-5-16**] 07:00 PM
 CORDIS/INTRODUCER - START [**2186-5-17**] 12:44 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Iodine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-17**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 71 (70 - 90) bpm
   BP: 136/47(94) {130/44(91) - 159/64(115)} mmHg
   RR: 18 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    796 mL
                                                                    575 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    556 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     96 mL
                                                                    575 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen:, NAD, comfortable
   Eyes/Conjunctiva: PERRL
   CV: IABP mechanical sound, no obvious m/r/g, JVP 2 cm flat
   Chest: No c/r/w heard over IABP sounds
   Abd: Soft, ND, mildly tender over lower quadrants amd lower abd
   Ext: No c/c/e, 1+ PT/DP pulses bilat. LLE ecchymosis and girth
   unchanged. Girth = 50cm just distal to ecchymosis.
   Right groin: dressing C/ID, no bruit or tenderness
   Labs / Radiology
   188 K/uL
   9.0 g/dL
   99 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   43 mg/dL
   107 mEq/L
   137 mEq/L
   26.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2186-5-16**]  09:49 PM
                             [**2186-5-17**]  04:10 AM
   WBC
   7.9
   Hct
   26.8
   Plt
   174
   188
   Cr
   1.5
   TropT
   6.70
   Glucose
   99
   Other labs: PT / PTT / INR:22.8/136.9/2.2, CK / CKMB /
   Troponin-T:977/155/6.70, Mg++:2.1 mg/dL
   67 yo man with extensive disease of the Left Main and LCx and
   restenosis of the LAD despite 2x PCI with stenting of distal LAD
   lesion, as well as a totally occluded RCA, and ESRD s/p renal
   transplant, here with STEMI.
   .
   # CORONARIES: Extensive stenosis in LM/LAD/LCx including restenosis in
   distal LAD, s/p balloon angioplasty. IABP inserted for support of
   coronary diastolic perfusion. Per CT surgery, will plan on 5x bypass
   surgery on [**5-18**], giving time for plavix level to decline from dose in
   ED. Will remain on integrillin until surgery but D/C plavix..
   - plan for CT surgery tomorrow (NPO after midnight)
   - Continue ASA, beta-blocker, atorvastatin, lisinopril
   - f/u Echo and CXR
   - Repeat EKG
   - Anticoagulation with integrillin and heparin
   - follow tele for PVCs or onset of arrhythmia and treat as necessary
   - Nitro drip as needed for CP
   - Monitor BPs and treat as necessary.
   - Maintain IABP at 1:1 until CABG.
   .
   # PUMP: History of Systolic CHF, with an EF of 35%. Currently takes
   Metoprolol, Lasix, and Lisinopril at home. Will continue beta-blocker,
   diuresis and ACE-I, and will re-evaluate pump function after STEMI with
   echo.
   - currently euvolemic; continue home dose of lasix and maintenance
   fluids. Follow daily Is/Os.
   .
   # RHYTHM: NSR so far but h/o AF with RVR s/p cardioversion, still on
   Coumadin daily at home.
   - d/c coumadin (INR=2), maintain anticoagulation with integrillin.
   - Continue rate control with metoprolol
   - Follow rhythm on tele
   .
   #. Anemia: Pt with Hct of 32 on admission and drop to 26.8 today.  Pt
   s/pngioplasty.  He also had a fall with left thigh ecchymosis.  No
   active sings of bleeding, but he is on anti-cogulation.  Concern for
   hematoma in thigh (either from fall or from cath site, although
   currently stable on exam)
   - monitor q8 Hct
   - CT abd/pelvis for eval fo RP bleed.
   - T&S
   - will transfuse 2U pRBC
   - check post-transfusion Hct
   - guaiac stools
   .
   # Type 2 Diabetes Mellitus:  The patient has a history of DM2,
   for which he takes a RISS and Glipizide daily. Continued RISS
   and Glipizide
   - daily FSBG, insulin per SSI
   .
   # s/p renal transplant:
   - Renal Function: Concern for ARF due to likely renal hypoperfusion in
   setting of STEMI. Admission labs show Cre 1.7, which is within the
   1.2-1.8 range of his measured creatinines this year. Currently trending
   down. Will monitor Cr/BUN and UOP for signs of ARF.
   - Immunosuppression: We will continue him on his tacrolimus and his
   prednisone at his current dose.
      -will alert transplant team that patient is in house.
   - PTH: We will continue him on his calcitriol and sensipar.
   - Erythropoiesis: Low Hct=32.9 on admission, likely related to
   procedure and IABP placement and will likely recover; will trend Hct
   and consider erythropogenic agents if necessary.
   .
   # Recent Fall: Large L thigh ecchymosis, c/f further bleeding in
   setting of integrellin. See above management for anemia. Outlined
   borders on admission, will monitor for changes. Will monitor pain and
   control with APAP and fentanyl as needed. No need for plain film at
   this time as pt was comfortable at home and walking on his legs.
   - anemia workup as above
   - Monitor thigh girth for signs of expanding hematoma
   .
   # Gout: The patient has a history of gout, for which he takes
   Allopurinol. Continue allopurinol 150mg daily.
   .
   # Hyperlipidemia:  The patient has a history of hyperlipidemia,
   for which he takes Atorvastatin. Continue atorvastatin at 80 mg PO
   daily.
   .
   # Spinal Stenosis:  The patient has a history of spinal
   stenosis, for which he takes Oxycodone q6h prn, which we will continue
   here as appropriate.
   .
   # Sciatica.  On chronic fentanyl therapy at home. Will continue here.
   .
   FEN: Maintenance fluids, Regular diet today; NPO p MN tomorrow for
   surgery on [**5-18**].
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with integrellin.
   -Pain management with fentanyl
   -Bowel regimen with colace/senna
   -Nasal swab for ICU MRSA screen
   CODE: Presumed full
   DISPO: CCU for now
   CONTACT: wife
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   IABP line - [**2186-5-16**] 07:00 PM
   18 Gauge - [**2186-5-16**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Integrillin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). CCU team admit mote from
   [**2186-5-16**].
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 50 minutes.
   Additional comments:
   STEMI, incomplete revasc, IABP, ?bleeding, renal transplant
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4646**],MD
   on:[**2186-5-17**] 10:51 ------

2186-05-18 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hct drop 32.9 --> 26.8, pt received 2U pRBC post-transfusion Hct 32.4
   CT-scan abd/pelvis prelim: No RP bleed
   CT-head: no acute process
   Renal Transplant: cont Tac and Pred, will follow tac (goal [**3-20**])
   Tac level 2.7, renal rec keeping current dose and recheck level in AM
   Carotid U/S <40% stenosis b/l
   ECHO: [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6366**] dilated. mild to moderate regional left ventricular
   systolic dysfunction with mid to distal anteroseptum akinesis and
   severe hypokinesis of the distal [**12-17**] of the ventricle. LVEF= 40 %.
   (PCWP>18mmHg). mild left ventricular hypertrophy and regional systolic
   dysfunction consistent with mid LAD disease.
   Allergies:
   Penicillins
   Anaphylaxis;
   Iodine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2186-5-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-18**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 66 (64 - 73) bpm
   BP: 116/27(74) {114/27(74) - 148/45(99)} mmHg
   RR: 8 (8 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,017 mL
                                                                    205 mL
   PO:
                                                                    680 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    587 mL
                                                                    105 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,475 mL
                                                                      0 mL
   Urine:
                                                                  2,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -458 mL
                                                                    205 mL
   Respiratory support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Gen:, NAD, comfortable
   Eyes/Conjunctiva: PERRL
   Nose: L nostril packed with gauze, no active bleeding
   CV: IABP mechanical sound, no obvious m/r/g, JVP 2 cm flat
   Chest: No c/r/w heard over IABP sounds
   Abd: Soft, ND, non-tender
   Ext: No c/c/e, 1+ PT/DP pulses bilat. LLE ecchymosis and girth
   unchanged. Girth = 50cm just distal to ecchymosis.
   Right groin: dressing C/ID, no bruit or tenderness
   Labs / Radiology
   188 K/uL
   10.2 g/dL
   89 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   42 mg/dL
   107 mEq/L
   137 mEq/L
   30.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2186-5-16**]  09:49 PM
                             [**2186-5-17**]  04:10 AM
                             [**2186-5-17**]  05:58 PM
                             [**2186-5-18**]  04:24 AM
   WBC
   7.9
   8.0
   Hct
   26.8
   32.4
   30.3
   Plt
   174
   188
   188
   Cr
   1.5
   1.5
   TropT
   6.70
   Glucose
   99
   89
   Other labs: PT / PTT / INR:21.6/78.3/2.1, CK / CKMB /
   Troponin-T:977/155/6.70, ALT / AST:35/148, Alk Phos / T Bili:95/0.2,
   Albumin:3.2 g/dL, LDH:416 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   #CORONARIES: Plan for CABG tomorrow per surgery, to allow for more INR
   reversal and plavix washout. No CP overnight and good vital signs.
   -continue to follow tele for PVCs or arrhythmia. Continue integrillin
   and heparin.
   - discuss d/c
ing  IABP today with surgery.
   - Regular diet today, NPO p MN tonight
   .
   # PUMP: Echo shows LVEF 40%, improved over last echo of 35% in 1/[**2185**].
   Remains clinically euvolemic and -700 for the day.
   .
   # RHYTHM: NSR despite runs of PACs/PVCs and some runs of VTs. Rate is
   appropriate in 60s-70s. Will continue to monitor.
   .
   # ANEMIA: CT scans negative for Abd/Pelvic/Head bleeding. No
   appreciable change in LLE girth or ecchymosis. No deltaMS, no abd
   distension. Epistaxis overnight. Received Vit K for INR reversal prior
   to surgery tomorrow. Hct bumped appropriately to 2U pRBC yesterday but
   has dropped 32.4 -> 30.3 since 6pm.
   - Coags are continuing to normalize, will follow
   .
   # EPISTAXIS: Likely [**1-16**] elev INR. No active bleeding at this time.
   -afrin if bleeding restarts
   -nasal saline PRN
   .
   # S/P RENAL TP: Cre remains 1.5. Tac level is low, will follow today
   for target 4-6 per renal transplant team.
   .
   # FALL: - Leg girth and ecchymosis unchanged. Continue to follow.
   .
   # DM2. Well-controlled on SSI.
   .
   # Gout. Currently asx. Continue allopurinol.
   .
   # HLP, continue atorvastatin high dose.
   .
   # Spinal Stenosis/Sciatica, pain controlled with fentanyl patch.
   .
   # FEN: maintenance fluids, regular diet today, NPO p MN for CABG
   tomorrow.
   # ACCESS: PIV, 18g
   # PPx: DVT (integrillin, heparin), PUD (omeprazole), Pain (fentanyl),
   Bowel (colace/senna). MRSA screen pending.
   # Code: FULL
   # Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 40 minutes of critical care time.
   Additional comments:
   IABP, AMI, iscehmia, bleeding, renal transplantation
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4646**],MD
   on:[**2186-5-18**] 10:13 ------

2186-05-19 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - d/c'd integrillin, contd hep gtt and IABP
   - CT [**Doctor First Name 458**] wanted ENT consult, ENT would not prophylactically put put in
   deep packing now that not bleeding, recomended saline nasal spray 4x/d,
   bacitracin 2x/d, humidifying shovel mask at all times, and aftrin if
   bleeds again
   - Hct 30, did not receive any transfusion
   - Renal rec- checked free Ca 1.09 -> since low held cinecalcet
   - INR 1.7 goal prior to surgery 1.6, [**Doctor First Name 458**] wanted more vit K, given 1mg
   Vit K.
   - NPO p MN, will proceed w/ surgery in AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Iodine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2186-5-18**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-19**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 76 (68 - 78) bpm
   BP: 153/39(104) {117/30(75) - 153/50(104)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    504 mL
                                                                    411 mL
   PO:
                                                                    300 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    204 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    700 mL
   Urine:
                                                                  1,100 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.35///28/
   Physical Examination
   Gen:, NAD, comfortable
   Eyes/Conjunctiva: PERRL
   Nose: L nostril packed with gauze, no active bleeding
   CV: IABP mechanical sound, no obvious m/r/g, JVP 2 cm flat
   Chest: No c/r/w heard over IABP sounds
   Abd: Soft, ND, non-tender
   Ext: No c/c/e, 1+ PT/DP pulses bilat. LLE ecchymosis and girth
   unchanged. Girth = 50cm just distal to ecchymosis.
   Right groin: dressing C/ID, no bruit or tenderness
   Labs / Radiology
   182 K/uL
   9.7 g/dL
   87 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.6 mEq/L
   45 mg/dL
   111 mEq/L
   143 mEq/L
   29.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2186-5-16**]  09:49 PM
                             [**2186-5-17**]  04:10 AM
                             [**2186-5-17**]  05:58 PM
                             [**2186-5-18**]  04:24 AM
                             [**2186-5-19**]  03:51 AM
   WBC
   7.9
   8.0
   9.1
   Hct
   26.8
   32.4
   30.3
   29.4
   Plt
   174
   188
   188
   182
   Cr
   1.5
   1.5
   1.5
   TropT
   6.70
   Glucose
   99
   89
   87
   Other labs: PT / PTT / INR:17.0/76.1/1.5, CK / CKMB /
   Troponin-T:977/155/6.70, ALT / AST:35/148, Alk Phos / T Bili:95/0.2,
   Albumin:3.2 g/dL, LDH:416 IU/L, Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   # Coronaries. Plan for CABG this AM per surgery given INR < 1.6. No CP
   overnight and good vital signs. Will continue to follow tele for PVCs
   or arrhythmia.
   # Pump. Clinically euvolemic.
   # Rhythm. NSR despite short runs of PACs/PVCs. Rate is appropriate in
   60s-70s. Will continue to monitor.
   # Anemia - Hct has remained stable, 30.3 -> 29.4. Epistaxis has
   resolved, no appreciable change in LLE girth or ecchymosis. No deltaMS,
   no abd distension.
   - Per ENT: saline nasal spray qid, bacitracin [**Hospital1 **], humidifying shovel
   mask and afrin PRN bleeding for epistaxis
   # s/p renal translpant -- Cre remains 1.5. Tac level today is pending.
   DC'd cincecalcet per renal for low Ca++.
   # Recent fall - Leg girth and ecchymosis unchanged. Continue to follow.
   # DM2. Well-controlled on SSI.
   # Gout. Currently asx. Continue allopurinol.
   # HLP, continue atorvastatin high dose.
   # Spinal Stenosis/Sciatica, pain controlled with fentanyl patch.
   # FEN: maintenance fluids, NPO today for CABG.
   # ACCESS: PIV, 18g
   # PPx: DVT (heparin), PUD (omeprazole), Pain (fentanyl), Bowel
   (colace/senna). MRSA screen pending.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2186-5-16**] 07:00 PM
   18 Gauge - [**2186-5-16**] 07:00 PM
   Cordis/Introducer - [**2186-5-17**] 12:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: